US04542237
A mixture of the oil, 1,1-dimethoxy-1-(6-methoxy-2-naphthyl)prop-2-yl p-toluenesulfonate, from Example 30, 50 ml of water, 100 ml of methanol and 19.5 g of sodium bicarbonate is refluxed (70° C.) for 14 hours. After that time, the mixture is cooled, poured into 6 volumes of water and extracted twice with 100 ml of toluene. The aqueous layer is acidified with concentrated hydrochloric acid to a pH of about 3 to yield 4.8 g of 2-(6-methoxy-2-naphthyl)propionic acid (melting point: 151.5°-153° C.).

reactant | 1,1-dimethoxy-1-(6-methoxy-2-naphthyl)prop-2-yl p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)OC(C(C1=CC2=CC=C(C=C2C=C1)OC)(OC)OC)C)C | C23H26O6S
reactant | methanol | 100 ml | CO | CH4O
reactant | sodium bicarbonate | 19.5 g | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
solvent | water | 50 ml | O | H2O
product | 2-(6-methoxy-2-naphthyl)propionic acid | 4.8 g | COC=1C=C2C=CC(=CC2=CC1)C(C(=O)O)C | C14H14O3
